US08404680B2
A solution of (3aS,6aS)-rel-3-dimethoxymethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole (35.3 mmol) in trifluoroacetic acid (30 ml) was treated with water (1.3 ml). The mixture was stirred at room temperature for 30 minutes. For the workup, the reaction mixture was diluted with water (100 ml) and extracted three times with dichloromethane. The combined organic layers were dried over sodium sulphate and evaporated. The crude product was purified by chromatography on silica gel using a 5:1-mixture of dichloromethane and heptane as the eluent. The (3aS,6aS)-rel-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole-3-carbaldehyde (4.79 g, 96% yield) was obtained as a yellow oil. MS: m/z=144.0 [M+H]+.

reactant | (3aS,6aS)-rel-3-dimethoxymethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole | 35.3 mmol | COC(C1=NO[C@H]2[C@@H]1COC2)OC | C8H13NO4
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 100 ml | O | H2O
solvent | water | 1.3 ml | O | H2O
product | (3aS,6aS)-rel-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole-3-carbaldehyde | 4.79 g, 96% yield | O1N=C([C@@H]2[C@H]1COC2)C=O | C6H7NO3
